US04446028
Isopropenyl Phosphonic Acid/Hydroxypropylacrylate Copolymer (2:1 molar ratio)
Using the apparatus and methodology as described in Example 1, isopropenyl phosphonic acid (61.6 g, 54%, 0.27 mole), hydroxypropylacrylate (16.6 g, 0.13 mole) and water (121.8 g) were charged in the reactor. Ammonium persulfate (6 g) was added. After 11/2 hours of reflux, 6 g additional persulfate was added followed by an equivalent reflux period. The final pH of the yellow solution was 0.72.

reactant | isopropenyl phosphonic acid | 0.27 mole, 61.6 g | C(=C)(C)P(O)(O)=O | C3H7O3P
reactant | hydroxypropylacrylate | 0.13 mole, 16.6 g | OCCCOC(C=C)=O | C6H10O3
reactant | Ammonium persulfate | 6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | persulfate | 6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-]
solvent | water | 121.8 g | O | H2O
product | Isopropenyl Phosphonic Acid Hydroxypropylacrylate | C(=C)(C)P(O)(O)=O.OCCCOC(C=C)=O | InChI=1S/C6H10O3.C3H7O3P/c1-2-6(8)9-5-3-4-7;1-3(2)7(4,5)6/h2,7H,1,3-5H2;1H2,2H3,(H2,4,5,6)
